US08058313B2
5-((1E)-2-(((E)-3-Amino-4-methoxystyrylsulfonyl)methyl-sulfonyl)-vinyl)-2-methoxyphenol
A solution of 3-amino-4-methoxybenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 62% yield. m.p. 148-150° C.

reactant | 3-amino-4-methoxybenzaldehyde | 2 mmol | NC=1C=C(C=O)C=CC1OC | C8H9NO2
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-((1E)-2-(((E)-3-Amino-4-methoxystyrylsulfonyl)methyl-sulfonyl)-vinyl)-2-methoxyphenol | 62% yield | NC=1C=C(/C=C/S(=O)(=O)CS(=O)(=O)/C=C/C=2C=CC(=C(C2)O)OC)C=CC1OC | C19H21NO7S2
